US07531561B2
4-Benzyl-2-(4-phenoxyphenyl)-[1,2,4]thiadiazolidine-3,5-dione (10)
Reagents: Benzylisothiocyanate (13 mmol, 1.6 mL), 4-phenoxyphenyl-isocyanate (13 mmol, 2.3 mL) and SO2Cl2 (13 mmol, 1 mL) in diethyl ether (50 mL). Isolation: filtration of reaction mixture. Purification: recrystallization from EtOH.

reactant | Benzylisothiocyanate | 13 mmol, 1.6 mL | C(C1=CC=CC=C1)N=C=S | C8H7NS
reactant | 4-phenoxyphenyl-isocyanate | 13 mmol, 2.3 mL | O(C1=CC=CC=C1)C1=CC=C(C=C1)N=C=O | C13H9NO2
reactant | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 4-Benzyl-2-(4-phenoxyphenyl)-[1,2,4]thiadiazolidine-3,5-dione | C(C1=CC=CC=C1)N1C(N(SC1=O)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C21H16N2O3S
